US05717124
To 0.92 g (2 mmol.) of (R)-3-t-butyldimethylsilyloxy-6-diphenylphosphinoyl-5-oxohexanoic acid prepared above, 0.28 g of methyl iodide, 0.28 g of potassium carbonate and 10 ml of acetone were added, and then the mixture was stirred for 8 hours at room temperature. After 16 ml of water was added to the solution, the solution was extracted with two portions of 20 ml of ethyl acetate. The ethyl acetate portions were combined and dried over anhydrous magnesium sulfate, and then the solvent was removed by distillation in vacuo to give 0.81 g of methyl (R)-3-t-butyldimethylsilyloxy-6-diphenylphosphinoyl-5-oxohexanoate as a colorless oil (optical purity: 98% ee; yield: 85% based on the amount of (R)-3-t-butyldimethylsilyloxy-6-diphenylphosphinoyl-5-oxohexanoic acid).

reactant | (R)-3-t-butyldimethylsilyloxy-6-diphenylphosphinoyl-5-oxohexanoic acid | 2 mmol, 0.92 g | [Si](C)(C)(C(C)(C)C)O[C@@H](CC(=O)O)CC(CP(=O)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C24H33O5PSi
reactant | methyl iodide | 0.28 g | CI | CH3I
reactant | potassium carbonate | 0.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | 16 ml | O | H2O
product | methyl (R)-3-t-butyldimethylsilyloxy-6-diphenylphosphinoyl-5-oxohexanoate | 0.81 g, yield: 85% | [Si](C)(C)(C(C)(C)C)O[C@@H](CC(=O)OC)CC(CP(=O)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C25H35O5PSi
